US08664431B2
3.6 g (15 mmol) 4-(2-hydroxyethoxy)benzophenone and 1.8 g (18 mmol) triethyl amine were dissolved in 40 ml 2-butanone. The mixture was cooled to −10° C. and 2.3 g (18 mmol) 3-chloro-propionyl chloride was added drop wise while the temperature was kept below −5° C. The reaction was allowed to continue first at 0° C. for 30 minutes, followed by 16 hours at room temperature. The precipitated salts were removed by filtration and the solvent was removed under reduced pressure. The crude 3-chloro-propionic acid 2-(4-benzoylphenoxy)ethyl ester was purified by preparative column chromatography on a Prochrom LC80 column, using n.-hexane/ethyl acetate 70/30 as eluent at a flow rate of 50 ml/min and Kromasil 60A 10 micron as silica. 1.9 g (32%) of 3-chloro-propionic acid 2-(4-benzoylphenoxy)ethyl ester was isolated.

reactant | 4-(2-hydroxyethoxy)benzophenone | 15 mmol, 3.6 g | OCCOC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C15H14O3
reactant | triethyl amine | 18 mmol, 1.8 g | C(C)N(CC)CC | C6H15N
reactant | 3-chloro-propionyl chloride | 18 mmol, 2.3 g | ClCCC(=O)Cl | C3H4Cl2O
solvent | 2-butanone | 40 ml | CC(CC)=O | C4H8O
product | 3-chloro-propionic acid 2-(4-benzoylphenoxy)ethyl ester | 1.9 g, 32% | C(C1=CC=CC=C1)(=O)C1=CC=C(OCCOC(CCCl)=O)C=C1 | C18H17ClO4
